US04943583
1.8 ml (19 mmol) of ethyl chloroformate are added dropwise while cooling to a mixture of 4.28 g (14 mmol) of 2-chloro-N'-(α,α,α-trifluoro-o-tolyl)-benzhydrazide and 2.7 ml (19 mmol) of triethylamine in 30 ml of toluene. The reaction mixture is heated at the reflux temperature for a further 4 hours and then extracted with diethyl ether against water and sodium bicarbonate solution. The organic phase is dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residual oil is then purified by chromatography using ethyl acetate/n-hexane (1:4) as the eluent. In this manner there is obtained ethyl 3-(2-chlorobenzoyl)-2-(α,α,α-trifluoro-o-tolyl)-carbazate as an almost colourless oil, IR spectrum (CHCl3): 3405, 1735, 1710 cm-1 ; 1H-NMR (CDCl3): 4.28 (q,OCH2CH3).

reactant | ethyl chloroformate | 19 mmol, 1.8 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-chloro-N'-(α,α,α-trifluoro-o-tolyl)-benzhydrazide | 14 mmol, 4.28 g | ClC1=C(C(=O)NNC2=C(C=CC=C2)C(F)(F)F)C=CC=C1 | C14H10ClF3N2O
reactant | triethylamine | 19 mmol, 2.7 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(2-chlorobenzoyl)-2-(α,α,α-trifluoro-o-tolyl)-carbazate | ClC1=C(C(=O)NN(C(=O)OCC)C2=C(C=CC=C2)C(F)(F)F)C=CC=C1 | C17H14ClF3N2O3
